US09226505B2
Ethyl 1-(3,4-difluorophenyl)-4-[3-(ethoxycarbonyl)phenyl]-1H-pyrazole-3-carboxylate
180 mg (0.54 mmol) of ethyl 4-bromo-1-(3,4-difluorophenyl)-1H-pyrazole-3-carboxylate, 156.7 mg (0.59 mmol) of methyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate, 158 mg (1.14 mmol) of potassium carbonate, 5.07 mg (0.011 mmol) of 2,2-dicyclohexylphosphino-2″,6″-diisopropoxybiphenyl and 1.22 mg (0.005 mmol) of palladium (II)acetate were suspended in 5 ml of ethanol and heated at the boil for 4 h. After cooling to room temperature, the solvent was removed under reduced pressure, the residue was dissolved in water and dichloromethane, the phases were separated and the organic phase was dried over magnesium sulfate. The crude product was purified by chromatography (ethyl acetate:n-heptane 1:4). This gave 84 mg (37%) of the desired product. 1H-NMR (400 MHz, CDCl3 δ, ppm) 8.15 (s, 1H); 8.05 (d, 1H); 7.96 (s, 1H); 7.74-7.69 (m, 2H); 7.53-7.47 (m, 2H); 7.28 (m, 1H); 4.48-4.34 (m, 4H); 1.43 (t, 3H); 1.29 (t, 3H)

reactant | ethyl 4-bromo-1-(3,4-difluorophenyl)-1H-pyrazole-3-carboxylate | 0.54 mmol, 180 mg | BrC=1C(=NN(C1)C1=CC(=C(C=C1)F)F)C(=O)OCC | C12H9BrF2N2O2
reactant | methyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 0.59 mmol, 156.7 mg | CC1(OB(OC1(C)C)C=1C=C(C(=O)OC)C=CC1)C | C14H19BO4
reactant | potassium carbonate | 1.14 mmol, 158 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium (II)acetate | 0.005 mmol, 1.22 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Ethyl 1-(3,4-difluorophenyl)-4-[3-(ethoxycarbonyl)phenyl]-1H-pyrazole-3-carboxylate | FC=1C=C(C=CC1F)N1N=C(C(=C1)C1=CC(=CC=C1)C(=O)OCC)C(=O)OCC | C21H18F2N2O4
